US04518597
7-[4-(4-Acetamido-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 210 from 7-(4-methanesulfonyloxy-butoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 4-acetamido-thiophenol.

reactant | 7-(4-methanesulfonyloxy-butoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | CS(=O)(=O)OCCCCOC1=CC2=C(C(OC(N2)=O)(C)C)C=C1 | C15H21NO6S
reactant | 4-acetamido-thiophenol | C(C)(=O)NC1=CC=C(C=C1)S | C8H9NOS
product | 7-[4-(4-Acetamido-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | C(C)(=O)NC1=CC=C(C=C1)SCCCCOC1=CC2=C(C(OC(N2)=O)(C)C)C=C1 | C22H26N2O4S
